US04454338
Synthesis of 6-amidino-2-naphthyl 4-phenylbutyrate:
To a solution of 2.9 g of 4-phenylbutyric acid in 50 ml of anhydrous pyridine, while being cooled in ice and stirred, was added 4.4 g of DCC. After 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added and the mixture was stirred for 24 hours at room temperature and removed of insolubles. Ethyl ether was added to the filtrate and the precipitate was collected by filtration. The precipitate was recrystallized from a DMF-ethyl ether mixture to obtain 2.3 g of a white powder of 6-amidino-2-naphthyl 4-phenylbutyrate methanesulfonate.

reactant | 4-phenylbutyric acid | 2.9 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 4-phenylbutyrate | 2.3 g | C1(=CC=CC=C1)CCCC(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C21H20N2O2
